US08455488B2
Synthesis of tert-butyl (S)-5-(2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetamido)-6-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-6-oxohexylcarbamate (Compound II-45)
According to the procedure described in the synthesis method of Compound II-15, 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-3) 69 mg (0.29 mmol) was coupled with tert-butyl (S)-5-amino-6-(((S)-1,1-diethoxypropan-2-yl)-(quinolin-8-ylmethyl)amino)-6-oxohexylcarbamate (Compound IV-14) 100 mg (0.19 mmol) to obtain the title compound.

reactant | 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetic acid | 0.29 mmol, 69 mg | C(C1=CC=CC=C1)NC(=O)NN(C)CC(=O)O | C11H15N3O3
reactant | tert-butyl (S)-5-amino-6-(((S)-1,1-diethoxypropan-2-yl)-(quinolin-8-ylmethyl)amino)-6-oxohexylcarbamate | 0.19 mmol, 100 mg | N[C@@H](CCCCNC(OC(C)(C)C)=O)C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C | C28H44N4O5
product | tert-butyl (S)-5-(2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetamido)-6-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-6-oxohexylcarbamate | C(C1=CC=CC=C1)NC(=O)NN(C)CC(=O)N[C@@H](CCCCNC(OC(C)(C)C)=O)C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C | C39H57N7O7
